US05061705
6-Chloroacetyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene:
A solution of 68 g (0.36 mole) of 1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene in 200 ml of methylene chloride was added dropwise at 0°-5° C. to a solution of 72 g (0.55 mole) of anhydrous aluminum chloride and 0.7 g (0.36 mole) of chloroacetyl chloride in 270 ml of dry methylene chloride. Stirring was then carried out overnight at room temperature. The mixture was poured onto ice/water and extracted with methylene chloride, and the organic phase was washed several times with water, dried over sodium sulfate and evaporated down. 92.2 g of 6-chloroacetyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene remained as an oil. The structure was determined by H-NMR spectroscopy.

reactant | 1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene | 0.36 mole, 68 g | CC1(CCC(C2=CC=CC=C12)(C)C)C | C14H20
reactant | aluminum chloride | 0.55 mole, 72 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | chloroacetyl chloride | 0.36 mole, 0.7 g | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 270 ml | C(Cl)Cl | CH2Cl2
product | 6-Chloroacetyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene | ClCC(=O)C=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C16H21ClO
